US07253158B2
1) 3-Fluoro-4-(2-morpholin-4-yl-ethoxy)-benzoic acid ethyl ester
3-Fluoro-4-hydroxybenzoic acid ethyl ester (0.20 g, 1.1 mmol) and N-(2-chloroethyl)morpholine (0.22 g, 1.2 mmol) were dissolved in dry DMF (10 ml). Potassium carbonate (1.88 g, 5 mmol) was added and the turbid reaction mixture was stirred overnight at 40° C. under an argon atmosphere. The reaction mixture was concentrated under reduced pressure and ethyl acetate was added to the residue followed by washing with NaHCO3 (½ sat., 3×), water, brine, dried (MgSO4), filtered. The crude oil was purified over silica gel (CH2Cl2/MeOH 39:1): colorless oil 0.16 g (49%);

reactant | 3-Fluoro-4-hydroxybenzoic acid ethyl ester | 1.1 mmol, 0.20 g | C(C)OC(C1=CC(=C(C=C1)O)F)=O | C9H9FO3
reactant | N-(2-chloroethyl)morpholine | 1.2 mmol, 0.22 g | ClCCN1CCOCC1 | C6H12ClNO
reactant | Potassium carbonate | 5 mmol, 1.88 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-Fluoro-4-(2-morpholin-4-yl-ethoxy)-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)OCCN1CCOCC1)F)=O | C15H20FNO4
